US04017510
To 20 g concentrated sulfuric acid at 5° C is added with stirring 10 g of 1-aminocyclohexanecarbonitrile. After the addition, the mixture is heated with stirring at 100° C for 1 hour. The hot solution is then poured onto ice, the solution made strongly basic with 50% aqueous sodium hydroxide solution, and extracted three times with chloroform. The extract is washed with water, saturated NaHCO3 solution, dried, and the solvent removed in vacuo to leave the product, 1-aminocyclohexanecarboxamide, as a crystalline residue, melting point 99°-102° C. This can be recrystallized from either benzene or ether to give a pure product, melting point 101°-102° C.

reactant | sulfuric acid | 20 g | S(O)(O)(=O)=O | H2O4S
reactant | 1-aminocyclohexanecarbonitrile | 10 g | NC1(CCCCC1)C#N | C7H12N2
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-aminocyclohexanecarboxamide | NC1(CCCCC1)C(=O)N | C7H14N2O
